US06635771B2
4-{2-[1-benzhydryl-5-chloro-2-(2-{[(3,5-dichlorophenyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethoxy}benzoic acid
To the methyl 4-{2-[2-(2-aminoethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]ethoxy}benzoate (Step 5, Example 1)was added 3,5-dichlorobenzenesulfonyl chloride according to the procedure in Example 1 Step 7 to generate the product in 60% yield.

reactant | methyl 4-{2-[2-(2-aminoethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]ethoxy}benzoate | NCCC=1N(C2=CC=C(C=C2C1CCOC1=CC=C(C(=O)OC)C=C1)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1 | C33H31ClN2O3
reactant | 3,5-dichlorobenzenesulfonyl chloride | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 4-{2-[1-benzhydryl-5-chloro-2-(2-{[(3,5-dichlorophenyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethoxy}benzoic acid | 60% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCOC1=CC=C(C(=O)O)C=C1)CCNS(=O)(=O)C1=CC(=CC(=C1)Cl)Cl | C38H31Cl3N2O5S
